US09126972B2
7.7: 2-Amino-1-ethyl-7-((R)-3-hydroxy-4-methoxy-3-methyl-but-1-ynyl)-3-(1H-imidazol-2-yl)-1H-quinolin-4-one
0.43 mg (1.15 mmol) of 2-amino-1-ethyl-3-(1H-imidazol-2-yl)-7-iodo-1H-quinolin-4-one, 0.262 (23 mmol) of (R)-3-hydroxy-4-methoxy-3-methyl-but-1-yne, and 0.397 g (3.45 mmol) were mixed in 15 ml of DMF. Argon was flushed through this solution for 10 minutes. After addition of 0.126 mg (0.17 mmol) of 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride and 0.033 mg (0.17 mmol) of copper iodide, the reaction mixture was stirred at 80° C. during 6 hours. The reaction mixture was then evaporated to dryness and the residue poured into a mixture of DCM and water. A black insoluble solid was filtered off (100 mg). The aqueous phase was extracted three times with dichloromethane. The combined organic phases were dried over MgSO4 and the solvents were evaporated off under reduced pressure. The residue was then purified by column chromatography (DCM/MeOH/NH4OH aq: 9/1/0.1) to yield 0.80 g (1.2 mmol) of yellow solid. This solid was recrystallized in dichloromethane to yield 0.02 g of a beige solid.

reactant | 2-amino-1-ethyl-3-(1H-imidazol-2-yl)-7-iodo-1H-quinolin-4-one | 1.15 mmol, 0.43 mg | NC=1N(C2=CC(=CC=C2C(C1C=1NC=CN1)=O)I)CC | C14H13IN4O
reactant | (R)-3-hydroxy-4-methoxy-3-methyl-but-1-yne | O[C@](C#C)(COC)C | C6H10O2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride | 0.17 mmol, 0.126 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | copper iodide | 0.17 mmol, 0.033 mg | [Cu](I)I
product | 2-Amino-1-ethyl-7-((R)-3-hydroxy-4-methoxy-3-methyl-but-1-ynyl)-3-(1H-imidazol-2-yl)-1H-quinolin-4-one | 1.2 mmol, 0.80 g | NC=1N(C2=CC(=CC=C2C(C1C=1NC=CN1)=O)C#C[C@@](COC)(C)O)CC | C20H22N4O3
